US08236808B2
1-(2-Chloro-ethyl)-3-(4-isobutoxy-phenyl)-urea
A solution of 2-chloroethyl isocyanate (15 g, 142 mmols) is added dropwise to a solution of 4-isobutoxy phenylamine (20 g, 121 mmols) in diethyl ether (100 mL) and stirred at RT for 1 h. The solid formed is collected by filtration and recrystallisation from ethanol affords the title compound.

reactant | 2-chloroethyl isocyanate | 142 mmols, 15 g | ClCCN=C=O | C3H4ClNO
reactant | 4-isobutoxy phenylamine | 121 mmols, 20 g | C(C(C)C)OC1=CC=C(C=C1)N | C10H15NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 1-(2-Chloro-ethyl)-3-(4-isobutoxy-phenyl)-urea | ClCCNC(=O)NC1=CC=C(C=C1)OCC(C)C | C13H19ClN2O2
